US06617346B1
To a solution of 2-nitro-4-trifluoromethyl-benzonitrile (4.052 g, 18 mmol) in ethanol (25 mL) were added sodium ethoxide solution (13.4 mL, 36 mmol, 21% wt in ethanol) dropwise over 30 min. The reaction mixture was stirred at room temperature for 1 h. Water (50 mL) was added and the resulting mixture was stirred for 15 min. The solid was filtered off, washed with water and dried under vacuum for 3 d to give 2-ethoxy-4-trifluoromethyl-benzonitrile as a beige solid (2.85 g, 74%). It was used without further purification.

reactant | 2-nitro-4-trifluoromethyl-benzonitrile | 18 mmol, 4.052 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F3N2O2
reactant | sodium ethoxide | 36 mmol, 13.4 mL | [O-]CC.[Na+]
reactant | Water | 50 mL | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-ethoxy-4-trifluoromethyl-benzonitrile | 2.85 g, 74% | C(C)OC1=C(C#N)C=CC(=C1)C(F)(F)F | C10H8F3NO
